US09056859B2
Step D: [2,5-difluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid
A solution of (4-amino-2,5-difluorophenyl)acetic acid (380 mg, 2.0 mmol) and triethyl orthoformate (902 mg, 6.1 mmol) in HOAc (10 mL) was added sodium azide (158 mg, 2.44 mmol) and the mixture was heated to 100° C. for 3 hours. After the reaction was completed, the reaction mixture was cooled to ambient temperature. The solvent was removed under vacuum. The residue was dissolved in EtOAc, washed with water, dried over anhydrous sodium sulfate, and concentrated. The [2,5-difluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid was directly used in next step.

reactant | (4-amino-2,5-difluorophenyl)acetic acid | 2.0 mmol, 380 mg | NC1=CC(=C(C=C1F)CC(=O)O)F | C8H7F2NO2
reactant | triethyl orthoformate | 6.1 mmol, 902 mg | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 2.44 mmol, 158 mg | [N-]=[N+]=[N-].[Na+]
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | [2,5-difluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid | FC1=C(C=C(C(=C1)N1N=NN=C1)F)CC(=O)O | C9H6F2N4O2
